Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___.
 
Chief Complaint:
chest pain, lethargy 
 
Major Surgical or Invasive Procedure:
CVL (___)
 
History of Present Illness:
___ yo M with a past medical history of CAD, SVT, DM, CRC 
presents to the ED with lethargy. According the patient, he has 
been feeling fine and is unsure why he was brought to the 
hospital. Per HCP and patient caretaker ___, patient 
has had poor po intake for many months, and has episodes of 
chest "shaking" but no frank chest pain over the last several 
days. He was ___ to bed last night and he was noted to have 
an episode of sensation of "air in the chest", which may have 
been indigestion. Also noted to have cough productive of sputum 
for weeks to months. Patient denies any fevers, or chills. 
Patient also denies dysuria, diarrhea, headache and neck pain. 
Also denies recent travel, new pets and recent long car rides of 
airplane flights.  
.  
In the ED, he was noted to be hypotensive to systolics in the 
___ to ___. He received 3 L of IVF and pressures only improved 
to 100s. He reported no chest pain. Labs were noteable for an 
elevated lactate of 3.9 and a positive UA. CXR noted a focal RLL 
and ? RML opacity. He was treated with Cipro 400 mg IVx1, 
Ceftriaxone 1 g IV x1, and azithromycin 500 mg IV x1. A right IJ 
was placed. EKG was unremarkable except for low voltage. Prior 
to transfer, VS were 97.3, 74, 96/56, 94 % 4l.  
.  
In the ICU, patient denies chest pain, and reports feeling at 
baseline. He denies letheragy, but does continue to have a 
cough.  

 
Past Medical History:
# CAD s/p PCI x 2 with a history of MI and angioplasty ___ years 
ago. His most recent cardiac catheterization was in ___ at ___ which revealed non-flow 
limiting three-vessel disease and no intervention was performed 
at that time  
# Atrial flutter/atrial tachycardia status post ablation in 
___ with breakthrough atrial tachycardia and atrial 
flutter  
# Type 2 diabetes on insulin-followed by Dr. ___- ___ 
visit
A1C 7.5
# PVD followed by Dr. ___  
# Colon Ca -- s/p partial colectomy ___, no radiation or 
chemotherapy  
# Neuropathy -- progressing to R arm now; legs unchanged, uses 
wheelchair  
# Spinal stenosis -- MRI performed ___, no emergent issues, 
but some retrolisthesis of L4-5, status post laminectomy at 
L4-L5.  
# Alcohol abuse  
# History of mechanical falls.
 
Social History:
___
Family History:
No history of premature cardiac disease.
 
Physical Exam:
Vitals: T: 97.5 BP: 100/54 P: 78 R: 18 O2: 96% 4L NC   
General: Alert, orientedx3, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: crackles right base, quiet breath sounds  
CV: irreglar rate, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley clear urine 
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
___ 06:26PM   LACTATE-2.9*
___ 07:06AM   LACTATE-3.7*
___ 07:06AM   O2 SAT-82
___ 06:23AM   GLUCOSE-93 UREA N-9 CREAT-0.4* SODIUM-133 
POTASSIUM-3.3 CHLORIDE-105 TOTAL CO2-19* ANION GAP-12
___ 06:23AM   CK(CPK)-24*
___ 06:23AM   CK-MB-2 cTropnT-<0.01
___ 06:23AM   CALCIUM-6.9* PHOSPHATE-2.7 MAGNESIUM-1.2*
___ 06:23AM   WBC-5.4 RBC-3.17* HGB-10.5* HCT-31.4* MCV-99* 
MCH-33.3* MCHC-33.6 RDW-15.1
___ 06:23AM   NEUTS-71* BANDS-8* ___ MONOS-2 EOS-1 
BASOS-0 ___ MYELOS-0
___ 06:23AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 06:23AM   PLT SMR-NORMAL PLT COUNT-292
___ 06:23AM   ___ PTT-34.4 ___
___ 02:04AM   LACTATE-3.9*
___ 01:32AM   ___ PTT-32.9 ___
___ 12:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 12:45AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:45AM URINE  BLOOD-LG NITRITE-POS PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-SM
___ 12:45AM URINE  RBC-0 ___ BACTERIA-OCC YEAST-NONE 
EPI-<1
___ 12:01AM   GLUCOSE-93 UREA N-12 CREAT-0.5 SODIUM-130* 
POTASSIUM-3.6 CHLORIDE-99 TOTAL CO2-19* ANION GAP-16
___ 12:01AM   ALT(SGPT)-5 AST(SGOT)-13 LD(LDH)-166 ALK 
PHOS-103 TOT BILI-0.3
___ 12:01AM   LIPASE-14
___ 12:01AM   cTropnT-<0.01
___ 12:01AM   ALBUMIN-2.2* CALCIUM-8.0* PHOSPHATE-2.7
___ 12:01AM   DIGOXIN-0.6*
___ 12:01AM   ASA-NEG ___ ACETMNPHN-28 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:01AM   WBC-5.5 RBC-3.85* HGB-12.4* HCT-36.8* MCV-96 
MCH-32.2* MCHC-33.7 RDW-14.9
___ 12:01AM   NEUTS-66.3 BANDS-0 ___ MONOS-1.5* 
EOS-1.0 BASOS-0.8
___ 12:01AM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL
___ 12:01AM   PLT SMR-NORMAL PLT COUNT-336

___ CXR:
The lungs are hyperinflated, consisted with COPD. There is mild 
cardiomegaly.
Mediastinal and hilar contours are unchanged. There is 
calcification of the
tortuous aorta. The hila are prominent, with atapered 
appearance, suggesting pulmonary hypertension.
 
There is ill- defined opacification in the right lower base. 
There is also
patchy opacity at the left base. No chf, effusion or ptx.
 
IMPRESSION:
 
1) Large opacity at right base -- most likely ddx is pneumonia 
or aspiration.
Recommend follow-up image to confirm resolution and exclude an 
underlying
chronic process.
 
2) Patchy opacity at left base, smaller but with similar ddx.
 
3) Cardiomegaly and COPD with possible pumonary hypertension.
 
Blood culture ___ pending

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

EKG ___
Sinus rhythm. Occasional premature atrial contractions. Low 
voltage.
Compared to the previous tracing of ___ no definite change.

 
Brief Hospital Course:
___ yo M with a past medical history of CAD, SVT, DM, CRC 
presents to the ED with lethargy, and found to have pneumonia, 
and possible early sepsis. 
.
# Hypotension, possible sepsis likely ___ 
consolidation/pneumonia seen on CXR. The patient was initially 
admitted to the MICU and treated with CTX, levofloxacin and 
flagyl for CAP and possible aspiration PNA. He was volume 
resuscitated with IVFs with improvement in his SBPs. Blood and 
urine cultures were drawn. Cultures had no growth prior to 
discharge.  His antibiotics were switched to Levofloxacin and 
Flagyl prior to discharge to complete a ___s he was 
no longer febrile or hypotensive.
.
# UTI: Patient was found to have a e-coli UTI not sensitive to 
Cipro and only mildly sensitive to Macrobid (which he has been 
on for prophylaxis).  For this reason, he was discharged on 7 
days of Ampicillin for a complicated UTI and Macrobid was 
stopped as this may be breading resistance.
.
# EtOh abuse: No history of DTs or seizures. Started on a CIWA 
but did not require any benzodiazepines.  Previous hospice nurse 
and PCP corroborated with history of heavy alcohol use.
.
# CAD: Plavix and asa were continued and CEs were negative 
.
# SVT: The patient is not anticoagulated. His digoxin was 
continued. His metoprolol was held in the setting of initial 
hypotension and then restarted.
.
# DM2: Glucose managed with Lantus and ISS. Neurontin was 
continued. 
.
# Exam and imaging c/w COPD: Long smoking history and exam c/w 
COPD although no documented diagnosis. Albuterol and ipratropium 
nebs were used. The patient should have outpatient spirometry. 
.
# Poor po intake: Albumin less than 3. INR 1.3. Nutrition 
consult was done as was speech and swallow consult.  Patient 
elected for aspiration diet.
.
# Code Status/Goals of care: DNR/DNI (confirmed with patient).  
Patient elected for ICU level of care with intravenous 
antibiotics and rehabilitation, which seemed counter to his 
hospice level of care.  Discussed with PCP, ___ 
explained that patient is on hospice due to physical decline 
secondary to diabetic neuropathy and alcoholic myopathy.  He was 
in agreement that patient could remove himself from hospice 
services (which he has been on for approx ___ year) and go to 
rehab if that was within his personal goals.  Patient elected to 
go home with ___ services, however discharged with ___ services 
as hospice did not feel that he was an appropriate candidate any 
longer.

 
Medications on Admission:
# Mirtazapine 30 mg Qhs
# Flomax 0.4 mg 24 hr Cap
# Plavix 75 mg Tab
# Calcarb 600 With Vitamin D 600 mg-400 unit BID
# Humulin 70/30 100 unit/mL (70-30) Susp, Sub-Q Inj
# Salmon Oil-1000 1,000 mg-200 mg daily
# Aspirin 325 mg daily
# Multivitamin daily
# Omega-3 Fatty Acids 1,000 mg daily
# Cod Liver Oil daily
# Digoxin 125 mcg daily
# Metoprolol Tartrate 75 mg TID 
# Macrodantin 100 mg BID
# Ferrous Sulfate 325 mg (65 mg Iron) BID 
# Gabapentin 300 mg QID
# B Complex Vitamins daily
# Amino Acid Cap daily
# Lecithin 1,200 mg daily
# Folate 1 mg daily
# Flonase 50 mcg nasal 2 sprays each nostril twice daily
# Flaxseed Oil 1,000 mg daily 
 
Discharge Medications:
1. Mirtazapine 30 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Calcium Carbonate-Vitamin D3 600 mg(1,500mg) -200 unit Tablet 
Sig: One (1) Tablet PO twice a day.  
5. Salmon Oil-Omega-3 Fatty Acids 1,000-200 mg Capsule Sig: One 
(1) Capsule PO once a day.  
6. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Omega-3 Fatty Acids 1,000 mg Capsule Sig: One (1) Capsule PO 
once a day.  
9. Cod Liver Oil  Oral
10. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
11. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO 
three times a day.  
12. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
13. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO QID (4 
times a day).  
14. B Complex Vitamins     Tablet Sig: One (1) Tablet PO once a 
day.  
15. Amino Acid     Capsule Sig: One (1) Capsule PO once a day.  
16. Lecithin 1,200 mg Capsule Sig: One (1) Capsule PO once a 
day.  
17. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
18. Flonase 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
sprays Nasal twice a day: to each nostril.  
19. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.
Disp:*60 Tablet(s)* Refills:*0*
20. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.
Disp:*60 Capsule(s)* Refills:*2*
21. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation every ___ hours as needed for shortness of breath or 
wheezing.
Disp:*1 cannister* Refills:*1*
22. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*7 Patch 24 hr(s)* Refills:*0*
23. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) mL 
Injection BID (2 times a day).
Disp:*60 mL* Refills:*2*
24. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
25. Phytonadione 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 2 doses.
Disp:*2 Tablet(s)* Refills:*0*
26. Levofloxacin 750 mg Tablet Sig: One (1) Tablet PO once a day 
for 7 doses.
Disp:*7 Tablet(s)* Refills:*0*
27. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 22 doses.
Disp:*22 Tablet(s)* Refills:*0*
28. Insulin
Continue your home insulin regimen of Humulin 70-30, 8 Units 
with supper.
Check your fingersticks once a day
29. Ampicillin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 9 days.
Disp:*36 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-community acquired and aspiration pneumonia

Secondary:
-CAD
-SVT
-COPD
-alcohol use
-DM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive. (slow speech)
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
___ were admitted to ___ 
because of lethargy and chest pain. While ___ were here ___ had 
labs and EKGs which showed that ___ were not having a heart 
attack.  ___ were found to have a pneumonia on chest x-ray and 
___ were treated with antibiotics. ___ also had a urine 
infection which was treated with different antibiotics.

While ___ were here, some of your medications were changed.
___ should START taking:
Flagyl through ___
Levaquin through ___
Ampicillin through ___
Colace
Senna
Combivent inhalers as needed
Thiamine for 2 more days
Nicotine patch (if ___ restart smoking, ___ must stop this 
patch)
___ should continue Heparin injections while ___ are bedbound

STOP taking
Macrobid

Congratulations on quitting smoking!

Continue to take all other medications as prescribed by your 
doctors.

___ should follow-up with your doctors as below.
 
Followup Instructions:
___